US05889026
1-[3-(2-benzyloxy-phenoxy)-propyl]-4-(4-methyl-benzyl)-piperidin-4-ol.
The title compound, MS: m/e=446.5(M+H+), was prepared from 1-(3-bromopropoxy)-2-(benzyloxy)-benzene and 4-(4-methyl-benzyl)-piperidin-4-ol.

reactant | 1-(3-bromopropoxy)-2-(benzyloxy)-benzene | BrCCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | C16H17BrO2
reactant | 4-(4-methyl-benzyl)-piperidin-4-ol | CC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO
product | 1-[3-(2-benzyloxy-phenoxy)-propyl]-4-(4-methyl-benzyl)-piperidin-4-ol | C(C1=CC=CC=C1)OC1=C(OCCCN2CCC(CC2)(O)CC2=CC=C(C=C2)C)C=CC=C1 | C29H35NO3
